US05453427
Methyl [6-methyl-4-(3-phenylphenoxy)-5-pyrimidinyl]-acetate (60 g, 0.18 mol) is added in one portion to a solution of t-BuOK (60 g, 0.53 mol) in 1,2-dimethoxyethane (0.51) at -40° C. After 1 hour dimethylformamide-dimethyl sulfate (1:1 adduct, 120 ml) is added at -50° C. The reaction mixture is allowed to warm to room temperature to give a yellow suspension. Addition of ether, washing repeatedly with brine and drying gives the crude methyl α-[4-methyl-6-(3-phenylphenoxy)-5-pyrimidinyl]-β-dimethylaminoacrylate (67 g, 95%) as an oil.

reactant | Methyl [6-methyl-4-(3-phenylphenoxy)-5-pyrimidinyl]-acetate | 0.18 mol, 60 g | CC1=C(C(=NC=N1)OC1=CC(=CC=C1)C1=CC=CC=C1)CC(=O)OC | C20H18N2O3
reactant | t-BuOK | 0.53 mol, 60 g | CC(C)(C)[O-].[K+]
reactant | dimethylformamide dimethyl sulfate | 120 ml | CN(C=O)C.S(=O)(=O)(OC)OC
reactant | ether | CCOCC | C4H10O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | methyl α-[4-methyl-6-(3-phenylphenoxy)-5-pyrimidinyl]-β-dimethylaminoacrylate | 67 g, 95% | CC1=NC=NC(=C1C(C(=O)OC)=CN(C)C)OC1=CC(=CC=C1)C1=CC=CC=C1 | C23H23N3O3
